US06498172B1
7-(4-Pyrazol-1-yl-benzylamino)-heptanoic acid methyl ester.
The title compound of Step A was prepared from 7-amino-heptanoic acid methyl ester hydrochloride, of Preparation 1, and 4-pyrazol-1-yl-benzaldehyde, of Preparation 42, using the method described in Example 1, Step A. 1H NMR (400 MHz, CDCl3) δ 7.90 (m, 1H), 7.70 (d, 1H), 7.63 (d, 2H), 7.39 (d, 2H), 6.45 (m, 1H), 3.80 (s, 2H), 3.65 (s, 3H), 2.61 (t, 2H), 2.29 (t, 2H), 1.63-1.32 (m, 4H), 1.25 (m, 4H); MS 316 (M+1).

reactant | 7-amino-heptanoic acid methyl ester hydrochloride | Cl.COC(CCCCCCN)=O
reactant | 4-pyrazol-1-yl-benzaldehyde | N1(N=CC=C1)C1=CC=C(C=O)C=C1 | C10H8N2O
product | 7-(4-Pyrazol-1-yl-benzylamino)-heptanoic acid methyl ester | COC(CCCCCCNCC1=CC=C(C=C1)N1N=CC=C1)=O | C18H25N3O2
